US07071340B2
116 mg (0.54 mmol) of sodium periodate are added at ambient temperature in 4 equal portions, every quarter of an hour, to 135 mg (0.54 mmol) of methyl 3-hydroxy-3-(hydroxymethyl)-2,3-dihydro-1-benzoxepin-7-carboxylate, prepared according to example 45, in solution in 16 ml of a 3/1 dioxane/water mixture. After the usual treatments, the crude reaction product is purified by chromatography on silica gel (ethyl acetate/heptane 25/75) to give 53 mg (45%) of methyl 3-oxo-2,3-dihydro-1-benzoxepin-7-carboxylate in the form of a white solid; M.p.=98° C.

reactant | sodium periodate | 0.54 mmol, 116 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | methyl 3-hydroxy-3-(hydroxymethyl)-2,3-dihydro-1-benzoxepin-7-carboxylate | 0.54 mmol, 135 mg | OC1(COC2=C(C=C1)C=C(C=C2)C(=O)OC)CO | C13H14O5
solvent | dioxane water | O1CCOCC1.O
product | methyl 3-oxo-2,3-dihydro-1-benzoxepin-7-carboxylate | 53 mg, 45% | O=C1COC2=C(C=C1)C=C(C=C2)C(=O)OC | C12H10O4
